US05439925
(a) Benzyl 3-tert-Butyl-4-isopropyloxybenzoate
5.7 g (0.02 mol) of benzyl 3-tert-butyl -4-hydroxybenzoate, 7 g (0.05 mol) of finely ground potassium carbonate, 4 ml (0.04 mol) of 2-iodopropane and 100 ml of methyl ethyl ketone are introduced under nitrogen into a three-necked flask. The mixture is heated to reflux for 24 h, the inorganic matter is filtered off and the filtrate is evaporated. The residue is taken up with ethyl ether and water and the organic phase is separated after settling has taken place, dried over magnesium sulphate and evaporated.

reactant | benzyl 3-tert-butyl -4-hydroxybenzoate | 0.02 mol, 5.7 g | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1O | C18H20O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 0.04 mol, 4 ml | IC(C)C | C3H7I
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | Benzyl 3-tert-Butyl-4-isopropyloxybenzoate | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1OC(C)C | C21H26O3
